US05969190
13.54 g of 3-chloro-perbenzoic acid (MCPBA, 70%) was dissolved in 30 ml of CH2Cl2 and cooled to 0°. 8.84 g of (E)-(S)-5,9-dimethyl-deca-2,8-dienoic acid ethyl ester dissolved in 15 ml of CH2Cl2, was slowly added and the mixture kept for an additional 0.5 h in the ice bath. The reaction was then quenched by pouring onto crushed ice/sodium pyrosulfite, extracted twice with AcOEt, washed with 2N NaOH, water and brine, dried over sodium sulfate and evaporated to dryness to yield 9.59 g of (5R)-7-((RS)-3,3-dimethyl-oxiranyl)-5-methyl-hept-2-enoic acid ethyl ester as 1/1 epimeric mixture, sufficiently pure for the next step.

reactant | 3-chloro-perbenzoic acid | 13.54 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | (E)-(S)-5,9-dimethyl-deca-2,8-dienoic acid ethyl ester | 8.84 g | C(C)OC(\C=C\C[C@H](CCC=C(C)C)C)=O | C14H24O2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | (5R)-7-((RS)-3,3-dimethyl-oxiranyl)-5-methyl-hept-2-enoic acid ethyl ester | 9.59 g | C(C)OC(C=CC[C@@H](CCC1OC1(C)C)C)=O | C14H24O3
